US06833378B2
2-(4-Chloro-2,6-dimethyl-phenoxy)-6-methyl-4-(1-methylaminomethyl-propylamino)-nicotinic acid methyl ester
A mixture of 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-formyl-propylamino)-6-methyl-nicotinic acid methyl ester (67 mg, 0.17 mmol) in dichloroethane (2 ml) was treated with methylamine, 1 drop of acetic acid, anhydrous Na2SO4 and sodium cyanoborohdride and stirred at rt. overnight. The mixture was quenched with water, extracted with methylene chloride. The organic layer was separated, dried, concentrated, and purified by silica gel Biotage using methylene chloride to 5% methanol in methylene chloride as eluent to give the title compound as an off-white solid. 1HNMR(CDCl3) 8.07(d, 1H), 7.02(s, 2H), 6.29(s, 1H), 3.87(s, 3H), 3.80(m, 1H), 2.88(m, 2H), 2.56(s, 3H), 2.11(s, 3H), 2.06(s, 6H), 1.63(m, 2H), 0.99(t, 3H)ppm

reactant | 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-formyl-propylamino)-6-methyl-nicotinic acid methyl ester | 0.17 mmol, 67 mg | COC(C1=C(N=C(C=C1NC(CC)C=O)C)OC1=C(C=C(C=C1C)Cl)C)=O | C20H23ClN2O4
reactant | methylamine | CN | CH5N
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | sodium | [Na] | Na
solvent | dichloroethane | 2 ml | ClC(C)Cl | C2H4Cl2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | 2-(4-Chloro-2,6-dimethyl-phenoxy)-6-methyl-4-(1-methylaminomethyl-propylamino)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(CC)CNC)C)OC1=C(C=C(C=C1C)Cl)C)=O | C21H28ClN3O3
